US07855215B2
7-(6-Amino-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
0.65 mMol of 7-(6-azido-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide in 5 ml THF are hydrogenated in the presence of 0.1 g Pd/C (10% Engelhard 4505). Filtration and chromatography (Combi Flash; hexane/EtOAc 19:1→11:9→1:3) of the concentrated filtrate gives the title compound: MS: [M+1]+=444; HPLC: AtRet=10.6; Anal.: C,H,N,F.

reactant | 7-(6-azido-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.65 mMol | FC(C=1C=C(C=CC1)NC(=O)N1C2=C(CCCC1)C=C(C=C2)OC2=NC=NC(=C2)N=[N+]=[N-])(F)F | C22H18F3N7O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 7-(6-Amino-pyrimidin-4-yloxy)-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C2=C(CCCC1)C=C(C=C2)OC2=NC=NC(=C2)N)(F)F | C22H20F3N5O2
